US07417056B2
5-[4-(5-Fluoro-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentylamino]isoquinol-1(2H)-one
Analogously to Example 1, 4-(5-fluoro-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentanal is converted with 5-aminoisoquinol-2(1H)-one into 5-[4-(5-fluoro-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentylidenamino]isoquinol-1(2H)-one, which is reduced with sodium borohydride to the product.

reactant | 4-(5-fluoro-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentanal | FC=1C=C(C2=C(CCO2)C1)C(CC(C=O)(C(F)(F)F)O)(C)C | C15H16F4O3
reactant | 5-[4-(5-fluoro-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentylidenamino]isoquinol-1(2H)-one | FC=1C=C(C2=C(CCO2)C1)C(CC(C=NC1=C2C=CNC(C2=CC=C1)=O)(C(F)(F)F)O)(C)C | C24H22F4N2O3
reactant | sodium borohydride | [BH4-].[Na+]
product | 5-[4-(5-Fluoro-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentylamino]isoquinol-1(2H)-one | FC=1C=C(C2=C(CCO2)C1)C(CC(CNC1=C2C=CNC(C2=CC=C1)=O)(C(F)(F)F)O)(C)C | C24H24F4N2O3
